US05262420
Preparation of 1-(3,4-dichlorophenyl)-4-(3-methyl-4-pyridyl)-pentane
1.83 g (15.1 mmol) of 3-methyl-4-ethylpyridine and 4.05 g (15.1 mmol) of 1-bromo-3-(3,4-dichlorophenyl)-propane were reacted in the same manner as in Example 26. The reaction product was purified to obtain 1.73 g of the desired compound (yield:37.3%).

reactant | 3-methyl-4-ethylpyridine | 15.1 mmol, 1.83 g | CC=1C=NC=CC1CC | C8H11N
reactant | 1-bromo-3-(3,4-dichlorophenyl)-propane | 15.1 mmol, 4.05 g | BrCCCC1=CC(=C(C=C1)Cl)Cl | C9H9BrCl2
product | 1-(3,4-dichlorophenyl)-4-(3-methyl-4-pyridyl)-pentane | 1.73 g, yield:37.3% | ClC=1C=C(C=CC1Cl)CCCC(C)C1=C(C=NC=C1)C | C17H19Cl2N
